US09315521B2
6-methyl-2-[(pyridin-4-ylmethyl)sulfanyl]pyrimidin-4-ol (100 mg, 429 μmol) was stirred in methanol (10 mL) and a solution of HCl 4N in dioxane (160 μL, 643 mmol) was added dropwise at 0° C. The mixture was stirred for 30 minutes at room temperature. The solvent was removed, and the residue was washed 3 times with diethyl ether and dried in vacuo to afford to 6-methyl-2-[(pyridin-4-ylmethyl)sulfanyl]pyrimidin-4-ol hydrochloride (109 mg, 94% yield); 1H NMR (400 MHz, MeOd4): δ 2.42 (s, 3H), 4.82 (s, 2H), 6.48 (s, 1H), 8.26 (bs, 2H), 8.82 (bs, 2H); LRMS (ES+) m/z 234 (100%, M+1).

reactant | 6-methyl-2-[(pyridin-4-ylmethyl)sulfanyl]pyrimidin-4-ol | 429 μmol, 100 mg | CC1=CC(=NC(=N1)SCC1=CC=NC=C1)O | C11H11N3OS
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 643 mmol, 160 μL | O1CCOCC1 | C4H8O2
solvent | methanol | 10 mL | CO | CH4O
product | 6-methyl-2-[(pyridin-4-ylmethyl)sulfanyl]pyrimidin-4-ol hydrochloride | 109 mg, 94% yield | Cl.CC1=CC(=NC(=N1)SCC1=CC=NC=C1)O | InChI=1S/C11H11N3OS.ClH/c1-8-6-10(15)14-11(13-8)16-7-9-2-4-12-5-3-9;/h2-6H,7H2,1H3,(H,13,14,15);1H
